US04622403
Phosphorous tribromide (0.2 ml) was added to a suspension of 3-cyano-8-hydroxymethyl-10,11-dihydrodibenzo[b,f]thiepin (500 mg; 1.87 mmole) in ether (7 ml). The reaction mixture was stirred at room temperature for one hour, then poured onto ice, extracted with ether (3×50 ml), dried over Na2SO4 and evaporated to afford 581 mg (95%) of 3-cyano-8-bromomethyl-10,11-dihydrodibenzo[b,f]thiepin as an oil.

reactant | Phosphorous tribromide | 0.2 ml | P(Br)(Br)Br | Br3P
reactant | 3-cyano-8-hydroxymethyl-10,11-dihydrodibenzo[b,f]thiepin | 1.87 mmole, 500 mg | C(#N)C=1C=CC2=C(SC3=C(CC2)C=C(C=C3)CO)C1 | C16H13NOS
solvent | ether | 7 ml | CCOCC | C4H10O
product | 3-cyano-8-bromomethyl-10,11-dihydrodibenzo[b,f]thiepin | 581 mg, 95% | C(#N)C=1C=CC2=C(SC3=C(CC2)C=C(C=C3)CBr)C1 | C16H12BrNS
